US06187777B1
2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)furan Hydrochloride.
Using the method described in Example 30 by employing 2-(1-pyrrolidinylvinyl)furan (freshly prepared before use) (2.13 g, 13.1 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (2.51 g, 13.1 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.2 mL, 13.1 mmol), piperidine (Aldrich Chemical Company) (2.1 mL, 21.0 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (49 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 162 mg (5%) of the free base as a tan colored sandy solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.65 (br s, 6), 3.72 (br s, 4), 6.67 (br s, 2), 7.12 (s, 1), 7.83 (s, 1), 8.23 (s, 1), 11.27 (s, 1). MS m/z: 269 (M+1). To a solution of 2-(4-piperidylpyrrolo[4,5-d]pyrimidin-6-yl)furan (0.54 g, 1.81 mmol) in 5:1 EtOAc: MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (1.80 mL, 1.80 mmol). The precipitate was collected by filtration, washed with EtOAc (2×10 mL), ether (3×15 mL) and dried under vacuum to give 550 mg (92%) of the title compound as a beige colored solid. Mp: >280° C. 1H NMR (DMSO-D6; 400 MHz): δ 1.71 (s, 6), 4.04 (br s, 4), 6.75 (dd, 1, J=3.1, 3.3), 6.83 (s, 1), 7.39 (s, 1), 7.96 (s, 1), 8.60 (s, 1), 12.27 (s, 1), 14.32 (s, 1). MS m/z: 269 (M+1). Anal. Calcd for C15H16N4O.HCl: C, 59.11; H, 5.62; N, 18.38; Cl, 11.63. Found C, 58.84; H, 5.72; N, 18.16; Cl, 11.54.

reactant | 2-(4-piperidylpyrrolo[4,5-d]pyrimidin-6-yl)furan | 1.81 mmol, 0.54 g | N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C=2OC=CC2 | C15H16N4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.80 mmol, 1M, 1.80 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(4-Piperidylpyrrolo[4,5-d]pyrimidin-6-yl)furan Hydrochloride | 550 mg, 92% | Cl.N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C=2OC=CC2 | InChI=1S/C15H16N4O.ClH/c1-2-14(20-7-1)12-8-11-13(18-12)9-17-15(19-11)10-3-5-16-6-4-10;/h1-2,7-10,16H,3-6H2,(H,17,19);1H
